** sch_path: /home/andre/diy-ic/schematic/balaudio_amp.sch
**.subckt balaudio_amp vdd vi- vi+ vo+ vo- vss
*.iopin vdd
*.iopin vss
*.iopin vi+
*.iopin vi-
*.iopin vo-
*.iopin vo+
XM1 A2_vi+ nmirror vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM2 A2_vi- vi- net1 vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM3 A2_vi+ vi+ net1 vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM4 net1 vb_tail vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM5 A2_vi- nmirror vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM6 vo- A2_vo- A2_vi+ vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM7 vo+ A2_vo+ A2_vi- vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
XM8 A1_vi+ vb_p vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM9 A1_vi- vb_p vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM10 vo- A1_vo- A1_vi+ vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
XM11 vo+ A1_vo+ A1_vi- vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
x1 vdd A1_vi+ A1_vi- A1_vo+ A1_vo- vss A1_cm aux_amp
x2 vdd A2_vi+ A2_vi- A2_vo+ A2_vo- vss A2_cm aux_amp
XM12 vb_tail vb_tail vdd vdd sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1
I0 vb_tail vss 10u
V1 vb_p vss 2.0
XM13 nmirror nmirror vss vss sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
I1 vdd nmirror 10u
V2 A1_cm vss 1.65
V3 A2_cm vss 1.65
**.ends

* expanding   symbol:  aux_amp.sym # of pins=7
** sym_path: /home/andre/diy-ic/schematic/aux_amp.sym
** sch_path: /home/andre/diy-ic/schematic/aux_amp.sch
.subckt aux_amp vdd vinm vi+ voutp voutm vss cm_in
*.iopin vss
*.iopin voutm
*.iopin vinp
*.iopin vdd
*.iopin voutp
*.iopin vinm
*.iopin vinp
*.iopin cm_in
XM1 net3 vinp net1 net1 sg13_hv_nmos w=80.0u l=10.0u ng=8 m=1
XM2 net4 cm_in net1 net1 sg13_hv_nmos w=80.0u l=10.0u ng=8 m=1
XM5 net1 nbias vss vss sg13_hv_nmos w=60.0u l=10.0u ng=8 m=1
XM3 net3 cm_in net2 net2 sg13_hv_nmos w=80.0u l=10.0u ng=8 m=1
XM4 net4 vinm net2 net2 sg13_hv_nmos w=80.0u l=10.0u ng=8 m=1
XM6 net2 nbias vss vss sg13_hv_nmos w=60.0u l=10.0u ng=8 m=1
XM11 voutm nbias vss vss sg13_hv_nmos w=29.0u l=10.0u ng=8 m=1
XM12 voutp nbias vss vss sg13_hv_nmos w=29.0u l=10.0u ng=8 m=1
V3 pbias vss 1.80
XM9 voutm pbias net3 net3 sg13_hv_pmos w=15.0u l=2.0u ng=8 m=1
XM7 net3 pbias_top vdd vdd sg13_hv_pmos w=4.0u l=1.0u ng=1 m=1
XM8 net4 pbias_top vdd vdd sg13_hv_pmos w=4.0u l=1.0u ng=1 m=1
XM10 voutp pbias net4 net4 sg13_hv_pmos w=15.0u l=2.0u ng=8 m=1
XM14 nbias nbias vss vss sg13_hv_nmos w=29.0u l=10.0u ng=8 m=1
I1 vdd nbias 1.0u
V1 pbias_top vss 2.2
.ends

.end
